US06727264B1
2-METHYL-N-(3-{1-[5-(3-NITROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure K and Scheme B1 (K2CO3) using 5-chloro-1-(3-nitrophenyl)-1-pentanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 452.2 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-chloro-1-(3-nitrophenyl)-1-pentanone | ClCCCCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H12ClNO3
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[5-(3-NITROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC(=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C26H33N3O4
